US07276612B2
To 3-dimethylaminomethylbenzofuran-2-carboxylic acid (140 mg, 0.56 mmol) was added EDC.HCl (150 mg, 0.784 mmol) and HOBt.H2O (114 mg, 0.84 mmol) in anhydrous DMF. The reaction mixture was stirred for 30-60 min., after which methyl-(4-(2-ethoxyamine))benzoate hydrochloric salt (130 mg, 0.56 mmol) and triethylamine (94 μL, 0.672 mmol) were added and the reaction was stirred overnight. The reaction mixture was diluted with EtOAc and washed twice with saturated NaHCO3 (aq.) and brine. The organic extract was concentrated in vacuo to give methyl 4-[2-(3-dimethylaminobenzofuran-2-yl-carbonylamino)ethoxy]benzoate, which was then used without further purification.

reactant | 3-dimethylaminomethylbenzofuran-2-carboxylic acid | 0.56 mmol, 140 mg | CN(C)CC1=C(OC2=C1C=CC=C2)C(=O)O | C12H13NO3
reactant | EDC.HCl | 0.784 mmol, 150 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.84 mmol, 114 mg | O | H2O
reactant | triethylamine | 0.672 mmol, 94 μL | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-[2-(3-dimethylaminobenzofuran-2-yl-carbonylamino)ethoxy]benzoate | CN(C1=C(OC2=C1C=CC=C2)C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C | C21H22N2O5
